US04401818
To the solution of 1.5 g of 1-(4-carbomethoxy-2-methylbutanoyl)-1,2,3,4-tetrahydroquinoline-2-carboxylic acid methyl ester in 13.5 ml of methanol is added 13.5 ml of N aqueous sodium hydroxide and the mixture is stirred at room temperature for 3 hours. It is concentrated at room temperature and reduced pressure, the aqueous solution filtered, cooled and acidified with concentrated hydrochloric acid. The mixture is extracted with methylene chloride, the extract dried, evaporated, the residue recrystallized from petroleum ether and triturated with diethyl ether, to yield the 1-(4-carboxy-2-methylbutanoyl)-1,2,3,4-tetrahydroquinoline-2-carboxylic acid melting at 117°-119°.

reactant | 1-(4-carbomethoxy-2-methylbutanoyl)-1,2,3,4-tetrahydroquinoline-2-carboxylic acid methyl ester | 1.5 g | COC(=O)C1N(C2=CC=CC=C2CC1)C(C(CCC(=O)OC)C)=O | C18H23NO5
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 13.5 ml | CO | CH4O
product | 1-(4-carboxy-2-methylbutanoyl)-1,2,3,4-tetrahydroquinoline-2-carboxylic acid | C(=O)(O)CCC(C(=O)N1C(CCC2=CC=CC=C12)C(=O)O)C | C16H19NO5
